US07517902B2
A solution of 5 g of 2,3-difluoro-4-hydroxybenzonitrile in 60 mL of dimethylformamide is admixed at ambient temperature with 1.05 g of 75% sodium hydride and then 12.09 g of N-phenyltrifluoromethanesulfonimide. The reaction mixture is stirred at ambient temperature for 18 h and then poured into distilled water. This mixture is extracted with ethyl acetate and the organic phase is decanted, washed a number of times with distilled water, then with saturated aqueous sodium chloride solution, dried over magnesium sulfate and then concentrated to dryness under reduced pressure. The solid obtained is chromatographed on a silica column (eluent: cyclohexane/ethyl acetate, 80/20 by volume). Evaporation to dryness under reduced pressure of the fractions containing the expected product gives 3.34 g of 4-cyano-2,3-difluorophenyl trifluoromethanesulfonate in the form of a mobile oil, whose characteristics are as follows:

reactant | 2,3-difluoro-4-hydroxybenzonitrile | 5 g | FC1=C(C#N)C=CC(=C1F)O | C7H3F2NO
reactant | sodium hydride | 1.05 g | [H-].[Na+]
reactant | N-phenyltrifluoromethanesulfonimide | 12.09 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
product | 4-cyano-2,3-difluorophenyl trifluoromethanesulfonate | 3.34 g | FC(S(=O)(=O)OC1=C(C(=C(C=C1)C#N)F)F)(F)F | C8H2F5NO3S
